US04977146
trans-2-[3-(2-Hydroxypropylsulfonyl)-4-propoxy-5-(2-bromoethoxy)phenyl]-5-(3,4,5-trimethoxyphenyl)tetrahydrofuran.
1,2-Dibromoethane (1.12 mL, 13 mmol) was added to a solution of trans-2-[3-(2-hydroxypropylsulfonyl)-4-propoxy-5-hydroxyphenyl]-5-(3,4,5-trimethoxyphenyl) tetrahydrofuran (331 mg, 0.65 mmol) in DMF (5 mL) containing potassium carbonate (550 mg, 3.9 mmoI). The reaction mixture was heated with stirring at 70° C. for 7 h and, cooled, and partitioned between ethyl ether and water. The ethereal layer was separated and the aqueous layer was re-extracted twice with ether. The organic extracts were combined, dried, and evaporated to dryness. The product was purified by flash column chromatography on silica gel using hexane-ethyl acetate (2:1, v/v) as the eluant Rf 0.42 (hexane-ethyl acetate; 1:2, v/v); NMR (CDCl3) δ 1.06 (t, CH2CH2CH3), 1.25 (d, CH2CHOHCH3), 1.90 (m, CH2CH2CH3), 3.74 (t, CH2CH2Br), 3.83 (s. OCH3 ), 3.88 (s. 2OCH3). 5.16-5.28 (m, H-2 & H-5), 6.62 (s. 2H, C5ArH), 7.28 and 7.54 (2d, 2H, C2ArH).

reactant | 1,2-Dibromoethane | 13 mmol, 1.12 mL | BrCCBr | C2H4Br2
reactant | trans-2-[3-(2-hydroxypropylsulfonyl)-4-propoxy-5-hydroxyphenyl]-5-(3,4,5-trimethoxyphenyl) tetrahydrofuran | 0.65 mmol, 331 mg | OC(CS(=O)(=O)C=1C=C(C=C(C1OCCC)O)[C@@H]1O[C@H](CC1)C1=CC(=C(C(=C1)OC)OC)OC)C | C25H34O9S
reactant | potassium carbonate | 550 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | trans-2-[3-(2-Hydroxypropylsulfonyl)-4-propoxy-5-(2-bromoethoxy)phenyl]-5-(3,4,5-trimethoxyphenyl)tetrahydrofuran | OC(CS(=O)(=O)C=1C=C(C=C(C1OCCC)OCCBr)[C@@H]1O[C@H](CC1)C1=CC(=C(C(=C1)OC)OC)OC)C | C27H37BrO9S
